US05389505
72.3 g (0.46 mol) of 2,6-dimethylquinoline and 188 g (1.4 mol) of butanesultone were heated at 145° C. for 4 hours with stirring. After being cooled to room temperature, 500 ml of acetone was added to the reaction mixture, which was cooled with ice for 30 minutes for crystallization. The crystals formed were filtered out, washed with acetone and dried to obtain 127.3 g of 4-[2,6-dimethyl-1quinolinio]butanesulfonate. The yield of the product was 94%.

reactant | 2,6-dimethylquinoline | 0.46 mol, 72.3 g | CC1=NC2=CC=C(C=C2C=C1)C | C11H11N
reactant | butanesultone | 1.4 mol, 188 g | C1CCCOS1(=O)=O | C4H8O3S
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 4-[2,6-dimethyl-1quinolinio]butanesulfonate | 127.3 g | CC1=[N+](C2=CC=C(C=C2C=C1)C)CCCCS(=O)(=O)[O-] | C15H19NO3S
